Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Enalapril / Ace Inhibitors / Iodine / Codeine / 
Advair HFA / Combivent / Losartan / Levofloxacin
 
Attending: ___.
 
Chief Complaint:
Face Swelling 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F h/o COPD on 3 liters, chronic dCHF, dementia, HTN on an 
___, recently admitted ___ for COPD exacerbation treated 
with high dose levofloxacin and prednisone who was discharged 
home without incident who is admitted due to uvula swelling. 
This morning her granddaughter noticed facial swelling and 
called EMS. She states she noticed increased lip redness ___ 
evening, but no swelling. No new foods changes or insect bites. 
Other than levofloxacin and 40 mg prednisone, no other new 
medications. Notably, did not get her presciptions filled 
yesterday and has not taken levofloxacin or prednisone ___ or 
___. Notably has had levofloxacin in ___ and no obvious 
reaction per her daughter and records.  
.  
In the ED, initial VS were: 80 140/88 24 92% 3L Nasal Cannula. 
She was noted to have hives and a large uvula, no angioedema, no 
stridor or changes in voice. She was given an epi pen, 
diphenhydrAMINE 25mg x 2, Famotidine 20mg IV, MethylPREDNISolone 
Succ 125mg x 1, Albuterol and Ipratropium nebulizers. She was 
also given 200 cc of NS. Last vitals: 80 140/68 23 100% on 3 
liters,  
.  
On arrival to the MICU, she states she is breathing well, 
however is using accessory muscles to breath. She has no 
complaints at present. She states she is in the hospital because 
she broker her arm. Notably admitted for a mechanical fall 
___ and developed a non-displaced ulnar styloid 
fracture and was splinted by orthopedics.  
.  
Review of systems: Patient denies any symptoms, but unable to 
obtain accurate history due to dementia  

 
Past Medical History:
- Oxygen-dependent COPD (3LPM), status post respiratory arrest 
in ___ for which she was intubated, had a prolonged 
hospital and rehab stay, and was also treated for pneumonia  
- Hypertension  
- Diabetes  
- Hyperlipidemia  
- osteoporosis with compression fractures  
- Dementia  
- Chronic MGUS  
- Tobacco abuse  
- Schizoaffective disorder  
- Tardive dyskinesia  
- Chronic uritcaria  
- Depression  
- Colonic adenoma  
- s/p tonsillectomy  
- s/p prophylactic appendectomy at time of hysterectomy  
- s/p total abdominal hysterectomy (pt has ovaries)  
- mechanical fall resulting in fractured left wrist and 
discharged on ___  
.  

 
Social History:
___
Family History:
Family History:Mother: ___, heart disease, hypertension, 
diabetes, anemia  
Sister: ___ cancer  
Father: ___, TB, passed away in ___  
Daughter: ___  

 
Physical ___:
ADMISSION PE:
Vitals: T: 97.1 BP: 162/71 P: 76 R: 23 O2: 100% on 3 L  
General: Alert, oriented to person, place, time, but not 
situation, no acute distress  
HEENT: Sclera anicteric, MMM, uvula enlarged, however not 
compromising airway, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: rhonchi bilatearlly, no wheezes, rales,  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
however diminisehd, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: ___ strength upper/lower extremities, grossly normal 
sensation, gait deferred, no focal deficits  

DISCHARGE PE: 
General: Alert, oriented to person, place, time, no acute 
distress  
HEENT: Sclera anicteric, MMM, uvula improved, no throat 
swelling, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: rhonchi bilatearlly- clearing with cough, no wheezes, 
rales,  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly 
GU: Foley d/ced, pt voiding without difficulty
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: ___ strength upper/lower extremities, grossly normal 
sensation, pt with Tardive dyskinesia (central unintentional 
movements which family states to be her baseline)
 
Pertinent Results:
ADMISSION LAB: 

___ 12:15PM BLOOD WBC-8.3# RBC-4.62 Hgb-12.2 Hct-37.7 
MCV-82 MCH-26.4* MCHC-32.3 RDW-15.2 Plt ___
___ 12:15PM BLOOD Neuts-80.7* Lymphs-16.1* Monos-1.4* 
Eos-1.6 Baso-0.3
___ 12:15PM BLOOD ___ PTT-24.1* ___
___ 12:15PM BLOOD Glucose-291* UreaN-12 Creat-0.7 Na-135 
K-4.9 Cl-99 HCO3-28 AnGap-13

DISCHARGE LABS: 

___ 04:28AM BLOOD WBC-7.8 RBC-4.54 Hgb-12.1 Hct-37.1 MCV-82 
MCH-26.6* MCHC-32.6 RDW-15.1 Plt ___
___ 11:11AM BLOOD WBC-15.5*# RBC-4.43 Hgb-11.8* Hct-36.4 
MCV-82 MCH-26.5* MCHC-32.3 RDW-14.8 Plt ___
___ 11:11AM BLOOD Neuts-91.0* Lymphs-6.5* Monos-2.1 Eos-0.3 
Baso-0.1
___ 11:11AM BLOOD Plt ___
___ 11:11AM BLOOD Glucose-310* UreaN-22* Creat-0.8 Na-135 
K-4.1 Cl-96 HCO3-27 AnGap-16
___ 04:28AM BLOOD Calcium-9.6 Phos-3.6 Mg-2.0

CXR: COMPARISON: Comparison is made to chest x-ray performed 
___. 
  
There is stable flattening of the bilateral hemidiaphragms with 
a relative 
paucity of vasculature in the left upper lung, consistent with 
reported 
history of COPD. Stable mild bilateral blunting of the 
costophrenic angles 
may represent a small pleural effusion. No focal opacification 
concerning for pneumonia identified. Mediastinal, hilar, and 
cardiac contours are 
unremarkable. 
  
IMPRESSION: Overall unchanged exam. Stable minimal blunting of 
bilateral 
costophrenic angles may represent small effusions versus 
scarring. 
.  
EKG: ___: Sinus rhythm. Consider left atrial abnormality. 
Somewhat late R wave progression. ST-T wave abnormalities. Since 
the previous tracing the rate is slower. QRS voltage is less 
prominent in the precordial leads.  
.  

 
Brief Hospital Course:
Assessment and Plan: ___ yo F h/o COPD on 3L with recent COPD 
exacerbation, HTN on ___ presenting with uvula swelling and 
urticaria which was concerning for allergic reaction to 
levofloxacin or Losartan.  
.  
# Uvula Swelling: Only new exposures include levofloxacin and 
prednisone. Levofloxacin renally cleared and patient does have 
mildly decreased GFR, so the timing of this new medication may 
coincide with her reaction. Another possibility includes the 
patient's ___. Both medications can cause an allergic reaction 
in less than 1 % of all noted reactions. Airway did not appear 
compromised. Patient had no dysphagia, odynophagia, dyspnea, 
stridor and is managing secretions without difficulty. On home 
O2. Was initially using accessory muscles, however improved 
after nebulizers. We emailed Dr. ___ and the 
recommendation was to continue to hold levofloxacin and 
losartan, while was okay to start on HCTZ. ENT was also 
consulted and recommended tx with steroids. She was given an 
dose of epinephrine in the ED and then started on methaPred than 
transitioned to prednisone 40mg with recs to take it for 5 days. 
Her uvula slight less swollen at time of discharge. As noted 
above, it was only mildly swollen by the time she arrived to the 
MICU. she was instructed to stop taking levofloxacin and 
possible losartan. I gave granddaughter verbal instructions over 
the phone since they could not come to pick up the patients.   
- Prednisone 40mg for 5 days
- Famotidine and hydroxy as needed for symptomatic relief
- Hold levofloxacin and losartan  
- ___ consider allergist referral
.  
# COPD: On 3 liters at baseline, however did appear in mild to 
moderate distress on presentation which improved with neb 
treatments. She appears to have increase WOB due to her movement 
disorder and as per the family she was on her baseline. She 
denies having any SOB prior to her discharge. We also sent Dr. 
___ email to discuss possible starting on Azithromycin ppx 
for her recurrent COPD flares, although her resp appears to be 
at baseline. He will discuss this with patient during her 
upcoming visit. 
- Continue steroids as above  
- Continue dulera, albuterol and ipratropium  
- Continue 3 liters NC  
- F/u with Dr. ___
 
.  
# small Pleural Effusion: Pt appears to have a small pleural 
effusion on Cxray. Her LVEF on ___ showed normal EF and normal 
E/E', so does not appear to have diastolic dysfunction. Given 
mild respiratory distress on presentation and pleural effusion, 
she was given only one dose of lasix 10mg IV with good response. 
She was breathing comfortable during the rest of her stay, so 
further doses of lasix were given.  
.  
# Chronic Urticaria: Has been a problem for several years per 
daughter. Is seen by allergy (Dr. ___ and feels possibly 
related to chronic MGUS. Managed with ranitidine and Aveeno  
- Treat as above plus Sarna prn  
.  
# Diabetes:  Her glucose was elevated since she was placed on 
steroids and her insulin sliding scale was increased while on 
steroids. She was continued on her home dose of lantus. I 
reviewed this information with her granddaughter and asked that 
her FSG be checked at home 4 times per day (before meals and at 
bed time). I also recommended that she continues with her 
sliding scale and call her PCP if her glucose remains elevated 
>300. Metformin was held while she was inpatient and restarted 
once she was d/ced. 
-Continue home lantus and HISS  
.  
# Hypertension: Mildly hypertensive on presentation. We 
continued her diltiazem, and given concern for possible allergic 
reaction to the losartan we then started on HCTZ. Her SBP was in 
the 140s-150s at time of discharge with the plans for her to 
follow-up with her PCP ___ 1 week.   
- Hold losartan as above  
- Started on HCTZ 25mg daily
- Asked ___ to check daily BPS
- F/u with her PCP office in 1 week
.  
# Hyperlipidemia: Continue pravastatin  
.  
# Tardive dyskinesia: She was off her medication while inpatient 
since the pharmacy does not carry it and her own pharmacy was 
out of stock. She has increase unintentional truncal movements 
consistent with her hx of tardive dyskinesia. 
- Continue tetrabenazine 25 mg q.h.s  
.  
# Mild to moderate dementia: Noted on NeuroPsych testing in the 
past  
- Continue olanzapine and perphenazine  
.  
# FEN: No IVF, replete electrolytes, eating a regular- soft diet 
with no difficulty
# Prophylaxis: Subcutaneous heparin, pneumoboots  
# Access: peripherals  
# Communication: Patient and daughter, ___: H: ___, 
C: ___  
# Code: Full (confirmed)  
# Disposition: home to daughter and granddaughter. She was taken 
by ambulance. 
 
Medications on Admission:
diltiazem HCl 180 mg ER DAILY (Daily).  
clonazepam 1 mg PO QHS as needed for insomnia.  
fexofenadine 60 mg PO BID  
omeprazole 20 mg PO DAILY  
losartan 50 mg Tablet PO DAILY  
pravastatin 20 mg daily  
Insulin glargine 20 units QHS  
metformin 1,000 mg Tablet Extended Rel 24 hr daily.  
olanzapine 5 mg PO HS  
ranitidine HCl 300 mg PO HS  
Lispro sliding scale TID  
perphenazine 8 mg Tablet PO HS  
prednisone 40 mg Tablet DAILY for 3 days. (last dose ___  
levofloxacin 750 mg Tablet PO DAILY 3 days. (last dose ___  
Dulera 100-5 mcg/Actuation HFA Aerosol Inhaler Two puffs twice a 
day.  
ipratropium-albuterol ___ mcg/Actuation ___ puffs every six 
hours as needed for shortness of breath or wheezing.  
fluticasone 50 mcg/Actuation Spray, One (1) spray Nasal once a 
day.  
albuterol sulfate Nebulization every six (6) hours as needed for 
shortness of breath or wheezing.  
tetrabenazine 25 mg PO hs  
camphor-menthol 0.5-0.5 % Lotion One (1) application Topical 
three times a day as needed for itching.  
ipratropium bromide 0.02 % Solution every six hours as needed 
for shortness of breath or wheezing.  

 
Discharge Medications:
1. diltiazem HCl 240 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO DAILY (Daily).  
2. clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)) as needed for insomnia.  
3. ipratropium-albuterol ___ mcg/Actuation Aerosol Sig: ___  
Inhalation every six (6) hours as needed for shortness of breath 
or wheezing.  
4. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation every ___ hours as needed 
for sob/wheeze.  
5. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
6. camphor-menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for itching.  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. olanzapine 5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. Dulera 100-5 mcg/Actuation HFA Aerosol Inhaler Sig: Two (2) 
puffs Inhalation every twelve (12) hours.  
10. tetrabenazine 25 mg Tablet Sig: One (1) Tablet PO qhs ().  
11. pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
13. prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily) 
for 4 days.
Disp:*10 Tablet(s)* Refills:*0*
14. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).
Disp:*30 Capsule(s)* Refills:*0*
15. diphenhydramine HCl 50 mg/mL Solution Sig: One (1)  
Injection Q6H (every 6 hours) as needed for hives/dyspnea: As 
needed for hives and itching.  
16. insulin glargine 100 unit/mL Cartridge Sig: Twenty (20) 
units Subcutaneous at bedtime.  
17. insulin lispro 100 unit/mL Solution Sig: One (1) injection 
Subcutaneous Before meals: Please follow current sliding scale 
since ___ need more insulin due to prednisone.  
18. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
19. fluticasone 50 mcg/Actuation Spray, Suspension Sig: ___ 
spray to each nostril  Nasal once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Face and throat swelling

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital for concern for swelling of 
your face and throat.  You were given an epinephrine injection, 
steroids and your medications, Levofloxacin and Losartan, were 
stopped as these sometimes may cause an allergic reaction and 
swelling of the face.  You did not have any evidence of airway 
compromise or obstruction, and you were continued on steroids 
and an anti-histamine, to be continued for 5 days total.

The following changes were made to your home medications:
- Prednisone was STARTED to be taken for FOUR additional days
- Famotidine was STARTED to be taken for FOUR additional days
- Start Hydrochlorozide 25mg once daily for your blood pressure
- STOP LOSARTAN since this is a concern that may have caused 
your allergic reaction. YOU SHOULD AVOID TAKING A CLASS OF BLOOD 
PRESSURE MEDICATIONS CALLED ACE-I, ___
- STOP LEVOFLOXACIN since we are uncertain if this could had 
caused your allergic reaction. 
 
Followup Instructions:
___